US05576324
N-(5-ethoxy-2-methylphenyl)-2-oxo-3-methylbutanamide:
A mixture of 2-amino-4-ethoxytoluene (590 mg, 3.99 mmol) and ethyl-2-methylacetoacetate (560 mg, 3.88 mmol) was stirred in a bath of 150° C. for 4 hours. The resultant mixture was subjected to silica gel column chromatography (developer: ethyl acetate--n-hexane), and the fraction containing the target substance was condensed, followed by recrystallizing from a solvent mixture of chloroform--n-hexane. As a result, 252 mg of the title compound was obtained as yellow powder (25.9%).

reactant | 2-amino-4-ethoxytoluene | 3.99 mmol, 590 mg | NC1=C(C=CC(=C1)OCC)C | C9H13NO
reactant | ethyl-2-methylacetoacetate | 3.88 mmol, 560 mg | C(C)OC(C(C(=O)C)C)=O | C7H12O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | N-(5-ethoxy-2-methylphenyl)-2-oxo-3-methylbutanamide | 252 mg | C(C)OC=1C=CC(=C(C1)NC(C(C(C)C)=O)=O)C | C14H19NO3
